US07176310B1
3. 2-(Benzylcarbamoylmethoxy)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using benzylamine (20 μL, 0.21 mmol) as the coupling partner. Concentration (no chromatography) yielded 58 mg (90%) of the titled compound. ESI-MS m/z 381 (MH+), 379 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | benzylamine | 0.21 mmol, 20 μL | C(C1=CC=CC=C1)N | C7H9N
product | 2-(Benzylcarbamoylmethoxy)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 58 mg, 90% | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(NCC1=CC=CC=C1)=O | C20H17FN4O3
